US05753679
0.65 g (0.00275 mol) of 1-(3-nitro-benzyl)-piperidin-4-ol and 1.9 ml (0.0136 mol) of triethylamine were dissolved in 27.5 ml of toluene, treated with 1.09 ml (0.00825 mol) of 4-methyl-benzoyl chloride and boiled at reflux for 18 hrs. The reaction mixture was concentrated and the residue was chromatographed over silica gel with ethyl acetate/hexane (1:3). 0.715 g (73%) of 1-(3-nitro-benzyl)-piperidin-4-yl 4-methyl-benzoate was obtained as yellow crystals; m.p. 90°-93°.

reactant | 1-(3-nitro-benzyl)-piperidin-4-ol | 0.00275 mol, 0.65 g | [N+](=O)([O-])C=1C=C(CN2CCC(CC2)O)C=CC1 | C12H16N2O3
reactant | triethylamine | 0.0136 mol, 1.9 ml | C(C)N(CC)CC | C6H15N
reactant | 4-methyl-benzoyl chloride | 0.00825 mol, 1.09 ml | CC1=CC=C(C(=O)Cl)C=C1 | C8H7ClO
solvent | toluene | 27.5 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(3-nitro-benzyl)-piperidin-4-yl 4-methyl-benzoate | 0.715 g, 73% | CC1=CC=C(C(=O)OC2CCN(CC2)CC2=CC(=CC=C2)[N+](=O)[O-])C=C1 | C20H22N2O4
